US04681962
To a solution of 4.5 ml of diisopropylamine in 50 ml of dry THF (tetrahydrofuran) cooled to 0° C. was added dropwise over a period of twenty minutes 19.6 ml of n-butyllithium (1.5M in hexane). After stirring an additional five minutes at 0° C. the solution was cooled to -40° C. (dry ice/acetone) after which time a solution of 13.1 g (0.0263 mol) of [3aR-[3a alpha,4alpha(3S*),5beta,6a alpha]]-hexahydro-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-4-[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]octyl)-2H-cyclopenta[b]furan-2-one dissolved in 100 ml of THF was added slowly while maintaining the temperature at -40° C. After five minutes at this temperature 4.5 ml of trimethylchlorosilane was added rapidly. The cooling bath was then removed and the reaction allowed to warm to 15° C. The solvent was then removed under vacuum and the residue treated with 50 ml of dry ether. The mixture was then filtered through a cintered glass filter and the solvent evaporated under high vacuum to produce [3aR-[3a alpha,4alpha(3S*),5beta,6a alpha]]-4,5,6,6a-tetrahydro-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-4-[3-[[1,1-dimethylethyl)dimethylsilyl]oxy]-octyl]-2-[(trimethylsilyl)oxy]-3aH-cyclopenta[b]furan. This compound was then dissolved at 0° C. in 50 ml of dry CH2Cl2 contaning 5.26 g of KHCO3, followed by the slow addition of 5.0 g of xenon difluoride. The mixture was then stirred for an additional 0.5 hr at 0° C. and then poured into 500 ml of ice water followed by extraction with CH2Cl2. The organic layer was separated, dried, and the solvent removed under reduced pressure. The residue (9.1 g) was then chromatographed on 500 g of silica gel (2% by volume ethyl acetate/98% by volume petroleum ether to 10% ethyl acetate/90% by volume petroleum ether) and afforded 2.2 g of starting material and 7 g (51.5% yield) of [3S-[3alpha,3a alpha,4alpha(3S*),5beta,6a alpha]]-hexahydro-3-fluoro-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-4-[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]octyl]-2H-cyclopenta[b]furan-2-one as a colorless liquid [α]D25 -29.35 (CHCl3, C=0.726).

reactant | diisopropylamine | 4.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.5M, 19.6 ml | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | trimethylchlorosilane | 4.5 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | 2-[(trimethylsilyl)oxy]-3aH-cyclopenta[b]furan | C[Si](OC1=CC2C(O1)=CC=C2)(C)C | C10H14O2Si
